US08084497B2
Preparation of 6-[(1R,2R)-3-(2-dimethylaminomethyl-cyclohexyl)-phenoxy]-3,4,5-trihydroxy-tetrahydropyran-2-carboxylic acid
A mixture of 2.33 g (10 mmol) (1R,2R)-3-(2-dimethylaminomethyl-cyclohexyl)-phenol, 3.58 g (9 mmol) acetobromo-α-D-glucuronic acid methyl ester and 0.23 g (9.5 mmol) lithium hydroxide in 23 ml dry methanol was first stirred at 20° C. for 30 minutes, a solution of 0.65 g lithium hydroxide in 25 ml water was then added and the mixture was stirred again for 30 minutes. It was extracted with ethyl acetate and the aqueous phase was adjusted to a pH of 3.5 by addition of acetic acid and extracted again with ethyl acetate. The aqueous phase was evaporated in vacuo and the residue was purified by HPLC. 0.85 g (23% of theory) of the title compound was obtained in this manner in the form of a white powder.

reactant | (1R,2R)-3-(2-dimethylaminomethyl-cyclohexyl)-phenol | 10 mmol, 2.33 g | CN(C)C[C@H]1[C@@H](CCCC1)C=1C=C(C=CC1)O | C15H23NO
reactant | acetobromo-α-D-glucuronic acid methyl ester | 9 mmol, 3.58 g | CC(=O)O[C@H]1[C@@H]([C@H](O[C@@H]([C@@H]1OC(=O)C)Br)C(=O)OC)OC(=O)C | C13H17BrO9
reactant | lithium hydroxide | 9.5 mmol, 0.23 g | [OH-].[Li+]
reactant | lithium hydroxide | 0.65 g | [OH-].[Li+]
solvent | methanol | 23 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 6-[(1R,2R)-3-(2-dimethylaminomethyl-cyclohexyl)-phenoxy]-3,4,5-trihydroxy-tetrahydropyran-2-carboxylic acid | CN(C)C[C@H]1[C@@H](CCCC1)C=1C=C(OC2C(C(C(C(O2)C(=O)O)O)O)O)C=CC1 | C21H31NO7
